### PR TITLE
[Merged by Bors] - feat(Data/Set/Finite): added lemmas about cardinality of finite sets

### PR DESCRIPTION
**Pull request by pimotte**
Added some lemmas in preparation for Tuttes theorem

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

[Zulip thread on Tuttes](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Tutte's.20theorem)

I put this in a new file, because Data.Set.Card is already fairly long and this seems somewhat coherent, but I'm also open to adding it there if that makes more sense:)

### CODE REVIEW

File: Mathlib/Data/Set/Finite/Parity.lean [hunk 1]
```diff
@@ -0,0 +1,58 @@
...
+    intro h
+    rw [@Set.nonempty_iff_ne_empty] at hn
+    exact hn <| (Set.ncard_eq_zero hs).mp h
+  have : s.ncard ≠ 1 := by
+    intro h
+    rw [Set.Nat.card_coe_set_eq, h] at he
+    simp at he
+  omega
+
+lemma two_of_even_of_nonempty (hs : Set.Finite s) (hn : Set.Nonempty s) (he : Even (Nat.card s)) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Set/Finite/Parity.lean:31]: This lemma is very specific and doesn't seem much easier to apply that the one with `two_le`.

File: Mathlib/Data/Set/Finite/Parity.lean [hunk 2]
```diff
@@ -0,0 +1,58 @@
...
+
+This file contains lemmas concerning finite sets and parity of their cardinality.
+-/
+
+namespace Set.Finite
+
+variable {V : Type _} {s : Set V}
+
+lemma one_lt_ncard_of_nonempty_of_even (hs : Set.Finite s) (hn : Set.Nonempty s)
+    (he : Even (Nat.card s)) : 1 < s.ncard := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Finite/Parity.lean:20]: Why are you using `Nat.card` on sets?

Comment (pimotte) [reply Mathlib/Data/Set/Finite/Parity.lean]: Because I standardized on it in my staging area, I guess using `ncard` makes more sense here, changed to that:)

File: Mathlib/Data/Set/Finite/Parity.lean (hunk 1 above)
Comment (pimotte) [reply Mathlib/Data/Set/Finite/Parity.lean]: Fair enough, removed it:)

File: Mathlib/Data/Set/Finite/Parity.lean [hunk 3]
```diff
@@ -0,0 +1,47 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Pim Otte
+-/
+import Mathlib.Data.Set.Card
+import Mathlib.Data.Set.Finite
+
+/-!
+# Finite sets and parity of their cardinality
+
+This file contains lemmas concerning finite sets and parity of their cardinality.
```
Comment (vihdzp) [inline Mathlib/Data/Set/Finite/Parity.lean:12]:
```suggestion
This file contains lemmas concerning finite sets and the parity of their cardinality.
```
Perhaps this could go a bit more in depth about the scope of the file? Or, if these are the two only theorems you plan on adding, maybe they can be moved elsewhere? Perhaps to the same file of the rest of your proof.

File: Mathlib/Data/Set/Finite/Parity.lean [hunk 4]
```diff
@@ -0,0 +1,47 @@
...
+  have : s.ncard ≠ 0 := by
+    intro h
+    rw [@Set.nonempty_iff_ne_empty] at hn
+    exact hn <| (Set.ncard_eq_zero hs).mp h
+  have : s.ncard ≠ 1 := by
+    intro h
+    simp [h] at he
+  omega
+
+lemma even_card_diff_pair [DecidableEq V] {x y : V} {u : Set V} (hu : Set.Finite u)
```
Comment (vihdzp) [inline Mathlib/Data/Set/Finite/Parity.lean:30]: My first instinct seeing this theorem is that it might be better stated in the other direction. That is, `Even u → Even (insert x (insert y u))`. Of course, this is pretty trivial as the latter set has cardinality `2` more than the former. I think the usefulness of this is contingent on whichever proof you want to use it on, and even then, I'd ask if the `insert` form can't be used instead.

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Set/Finite/Parity.lean:30]: Given the arguments, I'd suggest two lemmas, relating Even s or Odd s to the opposite for ‘insert x s‘.
And maybe an additional that proves that y does not belong to insert x s iff...

File: Mathlib/Data/Set/Finite/Parity.lean (hunk 3 above)
Comment (pimotte) [reply Mathlib/Data/Set/Finite/Parity.lean:12]: The vast majority of the rest of the proof would be in Combinatorics.SimpleGraph, so if you think a separate file is overkill, I'd say Data.Set.Card is the most likely alternative.

File: Mathlib/Data/Set/Finite/Parity.lean (hunk 4 above)
Comment (pimotte) [reply Mathlib/Data/Set/Finite/Parity.lean]: Fixed this:)

File: Mathlib/Data/Set/Finite/Parity.lean (hunk 3 above)
Comment (pimotte) [reply Mathlib/Data/Set/Finite/Parity.lean]: In refactoring the code became even smaller, so I moved it to Data.Set.Card

File: Mathlib/Data/Set/Card.lean [hunk 5]
```diff
@@ -614,6 +614,16 @@ theorem ncard_exchange' {a b : α} (ha : a ∉ s) (hb : b ∈ s) :
...
 
+lemma odd_card_insert_iff {a : α} (hs : s.Finite := by toFinite_tac) (ha : a ∉ s) :
+    Odd (insert a s).ncard ↔ Even s.ncard := by
+  rw [ncard_insert_of_not_mem ha hs, Nat.odd_add]
+  simp only [Nat.odd_add, Nat.odd_iff_not_even, Nat.not_even_one, iff_false, Decidable.not_not]
+
+lemma even_card_insert_iff {a : α} (hs : s.Finite := by toFinite_tac) (ha : a ∉ s) :
+    Even (insert a s).ncard ↔ Odd s.ncard := by
+  rw [ncard_insert_of_not_mem ha hs, Nat.even_add]
+  simp only [Nat.not_even_one, iff_false, Nat.odd_iff_not_even]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Card.lean:625]:
```suggestion
  rw [ncard_insert_of_not_mem ha hs, Nat.even_add_one, Nat.not_even_iff_odd]
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Please merge master

**Comment by pimotte** [comment]
> Please merge master

Done:)

File: Mathlib/Data/Set/Card.lean [hunk 6]
```diff
@@ -991,6 +1000,15 @@ theorem one_lt_ncard_iff (hs : s.Finite := by toFinite_tac) :
   rw [one_lt_ncard hs]
   simp only [exists_prop, exists_and_left]
 
+lemma one_lt_ncard_of_nonempty_of_even (hs : Set.Finite s) (hn : Set.Nonempty s := by toFinite_tac)
+    (he : Even (s.ncard)) : 1 < s.ncard := by
+  have : s.ncard ≠ 0 := by
+    intro h
+    rw [Set.nonempty_iff_ne_empty] at hn
+    exact hn <| (Set.ncard_eq_zero hs).mp h
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Card.lean:1008]:
```suggestion
  have : 0 < s.ncard := (Set.ncard_pos hs).mpr hn
```
or
```suggestion
  rw [← Set.ncard_pos hs] at hn
```

**Review by Ruben-VandeVelde — APPROVED** [review]
One more; LGTM otherwise

File: Mathlib/Data/Set/Card.lean (hunk 6 above)
Comment (pimotte) [reply Mathlib/Data/Set/Card.lean]: Fixed:)

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks! 

maintainer merge
